US06235789B1
1-[2-(Acetylamino)ethyl]-6-hydroxyindan
To a solution of 1-[2-(acetylamino)ethyl]-6-methoxyindan (6.40 g, 27.4 mmol) in dichloromethane (150 ml) was added dropwise, under ice-cooling, boron tribromide (5.19 ml, 54.8 mmol). The mixture was then stirred for one hour. The reaction mixture was poured into water. The mixture was stirred for 8 hours at room temperature, which was subjected to extraction with chloroform. The extract solution was washed with brine, which was dried over anhydrous magnesium sulfate, followed by distilling off the solvent under reduced pressure. The residue was recrystallized from ethyl acetate/isopropyl ether to give 4.70 g (yield 78%) of the above-titled compound, m.p.107-108° C.

reactant | 1-[2-(acetylamino)ethyl]-6-methoxyindan | 27.4 mmol, 6.40 g | C(C)(=O)NCCC1CCC2=CC=C(C=C12)OC | C14H19NO2
reactant | boron tribromide | 54.8 mmol, 5.19 ml | B(Br)(Br)Br | BBr3
reactant | water | O | H2O
solvent | dichloromethane | 150 ml | ClCCl | CH2Cl2
product | 1-[2-(Acetylamino)ethyl]-6-hydroxyindan | 4.70 g, yield 78% | C(C)(=O)NCCC1CCC2=CC=C(C=C12)O | C13H17NO2
